US06566367B2
Combine 5-nitro-2-pyrrolidin-1-yl-pyridine (5.6 g, 29 mmol), palladium hydroxide (1.96 g, 35 wt. %), ammonium formate (9.1 g, 145 mmol), 1N HCl/Et2O (41 ml), in methanol (289 ml) and stir. Heat reaction mixture to reflux for 1 hour. Cool reaction mixture and add carbon to decolorize. Filter the solution through celite, add 50 ml of saturated NaHCO3, and evaporate in vacuo to remove the methanol and ether. Extract the residue 3 times into CH2Cl2 from saturated NaHCO3, dry over Na2SO4, and evaporate in vacuo to obtain 6-pyrrolidin-1-yl-pyridin-3-ylamine. Mass spec.: M+1=164 (AP+).

reactant | 5-nitro-2-pyrrolidin-1-yl-pyridine | 29 mmol, 5.6 g | [N+](=O)([O-])C=1C=CC(=NC1)N1CCCC1 | C9H11N3O2
reactant | ammonium formate | 145 mmol, 9.1 g | C(=O)[O-].[NH4+]
reactant | HCl Et2O | 1N, 41 ml | Cl.CCOCC
solvent | methanol | 289 ml | CO | CH4O
catalyst | palladium hydroxide | 1.96 g | [OH-].[Pd+2].[OH-]
product | 6-pyrrolidin-1-yl-pyridin-3-ylamine | N1(CCCC1)C1=CC=C(C=N1)N | C9H13N3
